US07410993B2
Preparation of 1-(3-azabicyclo[3.1.0]hex-3-yl)-3-(2-benzyloxy-5-methylphenyl)-3-phenyl propane (Compound No.1)
A solution of 3-(2-benzyloxy-5-methylphenyl)-3-phenylpropyl-p-toluene sulphonate (Prepared by following the process as described in EP 0 325 571, 0.486 gm, 1 mmol), 3-azabicyclo[3.1.0]hexane hydrochloride (Prepared by following the process as described in U.S. Pat. No. 4,183,857, 0.12 gm, 1 mmol), potassium carbonate (0.275 gm, 2 mmol), potassium iodide (0.17 gm, 1 mmol) in acetonitrile (10 ml) and dimethylformamide (10 ml) were refluxed for 15 hours at about 100° C. The cooled reaction mixture was poured into water and extracted with ethyl acetate. The combined organic layers were dried over sodium sulphate and concentrated in vacuo to afford an oily residue, which was purified by column chromatography (silica gel 100-200 mesh), eluting the compound with 50-50 ethylacetate-hexane mixture.

reactant | 3-(2-benzyloxy-5-methylphenyl)-3-phenylpropyl-p-toluene sulphonate | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C)C=1C(=C(C=CC1S(=O)(=O)[O-])C)CCCC1=CC=CC=C1
reactant | 3-azabicyclo[3.1.0]hexane hydrochloride | Cl.C12CNCC2C1
reactant | potassium carbonate | 2 mmol, 0.275 gm | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1 mmol, 0.17 gm | [I-].[K+]
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-(3-azabicyclo[3.1.0]hex-3-yl)-3-(2-benzyloxy-5-methylphenyl)-3-phenyl propane | C12CN(CC2C1)CCC(C1=CC=CC=C1)C1=C(C=CC(=C1)C)OCC1=CC=CC=C1 | C28H31NO
